US07618964B2
2-Chloro-N-(2-phenyl-3H-imidazo[4,5-b]pyridin-6-yl)-benzamide
100 mg 2-phenyl-3H-imidazo[4,5-b]pyridin-6-ylamine (0.38 mmol,) in 4 ml dry pyridine were cooled to −40° C. and treated with 92 mg (1.1 equivalents) 2-chlorobenzoyl chloride. The cooling bath was removed an the mixture stirred for 1 hr at room temperature. The solvent was evaporated and the residue purified by chromatography on silica in methanol/dichloromethane mixtures. Yield 35 mg.

reactant | 2-phenyl-3H-imidazo[4,5-b]pyridin-6-ylamine | 0.38 mmol, 100 mg | C1(=CC=CC=C1)C1=NC=2C(=NC=C(C2)N)N1 | C12H10N4
reactant | 2-chlorobenzoyl chloride | 92 mg, 1.1 equivalents | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 2-Chloro-N-(2-phenyl-3H-imidazo[4,5-b]pyridin-6-yl)-benzamide | ClC1=C(C(=O)NC=2C=C3C(=NC2)NC(=N3)C3=CC=CC=C3)C=CC=C1 | C19H13ClN4O
